US05051509
A mixture of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid(566 mg), 3-acetamidopiperidine (300 mg), triethylamine (220 mg) and dimethylsulfoxide (10 ml) was heated at 100° C. for 2 hours with stirring. Thereafter the mixture was cooled to room temperature and ice water was added thereto. The precipitated crystalline was filtered off andwashed with methanol-ether to give 7-(3-acetamidopiperidin-1-yl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (540 mg) (m.p. 280°-282° C., recrystallized from methanol). The product (405 mg) obtained in the above manner was suspended in 6N hydrochloric acid (5 ml) and heated at 100° C. for 2.5 hours with stirring. The reaction mixture was further processed in a similar manner to step (b) of Example 1 to afford hydrochloride of 7-(3-aminopiperidinly-1)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid. The physical properties of this product were identical with those of the compound provided in Example 1.

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 566 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | 3-acetamidopiperidine | 300 mg | C(C)(=O)NC1CNCCC1 | C7H14N2O
reactant | triethylamine | 220 mg | C(C)N(CC)CC | C6H15N
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 7-(3-acetamidopiperidin-1-yl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 540 mg | C(C)(=O)NC1CN(CCC1)C1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)F | C20H21F2N3O4
